US05008290
Ethyl [2-(2-(4-chlorobenzenesulphonylamino)-ethyl)-1-methylpyrrol-5-yl]-acetate
Prepared analogously to Example 28 from 2-(2-(4-chlorobenzenesulphonylamino)-ethyl)-1-methylpyrrole and ethyl diazoacetate.

reactant | 2-(2-(4-chlorobenzenesulphonylamino)-ethyl)-1-methylpyrrole | ClC1=CC=C(C=C1)S(=O)(=O)NCCC=1N(C=CC1)C | C13H15ClN2O2S
reactant | ethyl diazoacetate | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
product | Ethyl [2-(2-(4-chlorobenzenesulphonylamino)-ethyl)-1-methylpyrrol-5-yl]-acetate | ClC1=CC=C(C=C1)S(=O)(=O)NCCC=1N(C(=CC1)CC(=O)OCC)C | C17H21ClN2O4S
